US07176242B2
tert-Butyl 3-(benzyloxy)-1-(hydroxymethyl)propylcarbamate
To an ice-cold solution of methyl O-benzyl-N-(tert-butoxycarbonyl)homoserinate (6 g, 18.6 mmol) in absolute ethanol (100 mL) is added sodium borohydride (2.8 g, 74.2 mmol), and the reaction is refluxed 2 h. The solution is cooled, excess saturated potassium carbonate added, and stirred 16 h at room temperature. The ethanol is removed under reduced pressure, and the aqueous solution is extracted with chloroform. The organic layer is washed with saturated sodium bicarbonate, saturated sodium sulfate, dried (magnesium sulfate), filtered, and concentrated under reduced pressure to give the title compound. ESI MS m/z 296.2 [M+H]+.

reactant | methyl O-benzyl-N-(tert-butoxycarbonyl)homoserinate | 18.6 mmol, 6 g | C(C1=CC=CC=C1)OCC[C@H](NC(=O)OC(C)(C)C)C(=O)OC | C17H25NO5
reactant | sodium borohydride | 74.2 mmol, 2.8 g | [BH4-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | tert-Butyl 3-(benzyloxy)-1-(hydroxymethyl)propylcarbamate | C(C1=CC=CC=C1)OCCC(CO)NC(OC(C)(C)C)=O | C16H25NO4
